US04005147
50 Parts of 3,3-dimethylacrolein and 100 parts of acetophenone together with 10 parts of zinc oxide are kept for 3 hours at a temperature of 180° C under a pressure of 50 atmospheres. The reaction mixture is subjected to fractional distillation. 75.3 parts of 2-methyl-6-phenyl-2,4-hexadien-6-one (87% of theory based on 3,3-dimethylacrolein) is obtained at a conversion of 78% of theory. Boiling point: 107° to 110° C at 10116 4 mm.

reactant | 3,3-dimethylacrolein | CC(=CC=O)C | C5H8O
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
catalyst | zinc oxide | [O-2].[Zn+2]
product | 2-methyl-6-phenyl-2,4-hexadien-6-one | 87% | CC(C)=CC=CC(=O)C1=CC=CC=C1 | C13H14O
